US05053542
adding 2-fluoroaniline to a mixture of bromine and quaternary ammonium bromide in an inert solvent to produce 4-bromo-2-fluoroaniline hydrobromide salt as a precipitate in a mother liquor;

reactant | 2-fluoroaniline | FC1=C(N)C=CC=C1 | C6H6FN
reactant | bromine | BrBr | Br2
product | 4-bromo-2-fluoroaniline hydrobromide salt | Br.BrC1=CC(=C(N)C=C1)F | InChI=1S/C6H5BrFN.BrH/c7-4-1-2-6(9)5(8)3-4;/h1-3H,9H2;1H
